US07842324B2
N-isobutyl-1-(4-methoxyphenyl)cyclopropanecarboxamide
Prepared in a similar manner to Example 35a starting from 1-(4-methoxyphenyl) cyclopropanecarboxylic acid and isobutyl amine. Yield: 97%. MS+H (248).

reactant | 1-(4-methoxyphenyl) cyclopropanecarboxylic acid | COC1=CC=C(C=C1)C1(CC1)C(=O)O | C11H12O3
reactant | isobutyl amine | C(C(C)C)N | C4H11N
product | N-isobutyl-1-(4-methoxyphenyl)cyclopropanecarboxamide | Yield: 97% | C(C(C)C)NC(=O)C1(CC1)C1=CC=C(C=C1)OC | C15H21NO2
